US07407971B2
Ethyl 3-[(4-fluorobenzoyl)amino]-6,6-dimethyl-5,6-dihydropyrrolo[3,4-c]pyrazole-1(4H)-carboxylate hydrochloride
5-tert-Butyl 1-ethyl 3-[(4-fluorobenzoyl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate (2.5 g, 5.59 mmol) was dissolved in dioxane (50 ml) and treated with HCl 4M in dioxane (28 ml, 20 eq). After 2 hours at 40° C. (TLC: CH2Cl2/MeOH 90/10) the reaction mixture was concentrated and the residue was treated with diethyl ether, filtered to afford the title compound (2.09 g) as a solid in 98% yield.

reactant | 5-tert-Butyl 1-ethyl 3-[(4-fluorobenzoyl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate | 5.59 mmol, 2.5 g | FC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OCC)C(N(C3)C(=O)OC(C)(C)C)(C)C)C=C1 | C22H27FN4O5
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 28 ml, 20 eq | O1CCOCC1 | C4H8O2
product | Ethyl 3-[(4-fluorobenzoyl)amino]-6,6-dimethyl-5,6-dihydropyrrolo[3,4-c]pyrazole-1(4H)-carboxylate hydrochloride | 2.09 g, 98% yield | Cl.FC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OCC)C(NC3)(C)C)C=C1 | InChI=1S/C17H19FN4O3.ClH/c1-4-25-16(24)22-13-12(9-19-17(13,2)3)14(21-22)20-15(23)10-5-7-11(18)8-6-10;/h5-8,19H,4,9H2,1-3H3,(H,20,21,23);1H
